US07994196B2
2-Amino-4-(trifluoromethyl)thiazole (Wako Pure Chemical Industries, Ltd., 500 mg) was added to 48% aqueous hydrogen bromide (6 ml) and, under ice-cooling, sodium nitrite (266 mg) dissolved in water (1 ml) was added dropwise thereto. The mixture was stirred at 0° C. for 1 hr. A sodium hydrogen sulfite aqueous solution, and then an aqueous sodium hydroxide solution were added, and the mixture was extracted with diethyl ether. The organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: ethyl acetate-hexane (1:9)) to give 2-bromo-4-(trifluoromethyl)thiazole (167 mg, yield 24%).

reactant | 2-Amino-4-(trifluoromethyl)thiazole | 500 mg | NC=1SC=C(N1)C(F)(F)F | C4H3F3N2S
reactant | hydrogen bromide | 6 ml | Br | BrH
reactant | sodium nitrite | 266 mg | N(=O)[O-].[Na+]
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | 2-bromo-4-(trifluoromethyl)thiazole | 167 mg, yield 24% | BrC=1SC=C(N1)C(F)(F)F | C4HBrF3NS
